US06410550B1
B) 2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone
2,2,2-Trifluoro-1-(4-hydroxy-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone (575 mg, 1.82 mmol) was hydrogenated in MeOH under a H2 atmosphere at (45 psi) over 10% Pd/C (80 mg) for 1.5 hours then filtered through a Celite pad and concentrated to white solids (450 mg, 86% ). (TLC 5% MeOH/CH2Cl2 (NH3) Rf 0.6). 1H NMR (400 MHz, CD3OD) δ6.67-6.59 (m, 2H), 4.12 (m, 1H), 3.73 (m, 1H), 3.73 (m, 1H), 3.51 (m, 1H), 3.07 (m, 2H), 2.24 (m, 1H), 1.94 (d, J=10.5 Hz, 1H). GCMS m/e 286 (M+).

reactant | 2,2,2-Trifluoro-1-(4-hydroxy-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | 1.82 mmol, 575 mg | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)[N+](=O)[O-])(F)F | C13H11F3N2O4
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)N)(F)F | C13H13F3N2O2
